US07476399B2
2-Methoxy-benzooxazole-5-carboxylic acid (1-propyl-butyl)-amide
Prepared in a similar manner to example 41 using 3-amino-4-hydroxy-N-(1-propylbutyl)benzamide (example 4aa) and tetramethylorthocarbonate. Yield: 60%. mp 137-138° C.; MS (M+H, 291.10).

reactant | 3-amino-4-hydroxy-N-(1-propylbutyl)benzamide | NC=1C=C(C(=O)NC(CCC)CCC)C=CC1O | C14H22N2O2
reactant | tetramethylorthocarbonate | COC(OC)(OC)OC | C5H12O4
product | 2-Methoxy-benzooxazole-5-carboxylic acid (1-propyl-butyl)-amide | Yield: 60% | C(CC)C(CCC)NC(=O)C=1C=CC2=C(N=C(O2)OC)C1 | C16H22N2O3
